US04476040
Methylation. 2-Formyl-1-hydroxy-3,4,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene (8.7 g, 0.0335 mol) was stirred with toluene (60 mL), and potassium hydroxide 85% (3.1 g, 0.047 mol) was added in one portion. The mixture was heated to 55° C., dimethyl sulfate (6.3 g, 0.05 mol) added during 0.5 h at 55°-60° C., and the heating continued at 55°-60° C. for 4 h. The mixture was cooled to 20° C., neutralized with 5% hydrochloric acid, then washed with water (10 mL), and finally washed with brine (10 mL). The solvent was removed by distillation and the residue distilled to give 2-formyl-1-methoxy-3,4,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene (5.8 g), GLC purity 97%. Crystallization from hexane gave 3.5 g material with GLC purity 100%. 1H-NMR (CDCl3) δ10.40 (1H, s), 3.78 (3H, s), 2.40 (3H, s), 2.37 (3H, s), 1.64 (4H, s), 1.45 (6H, s), 1.42 (6H, s). 13C-NMR (CDCl3) δ193.5 (1C, d), 162.9 (1C, s), 151.6 (1C, s), 137.7 (1C, s), 136.7 (1C, s), 132.5 (1C, s), 126.9 (1C, s), 65.7 (1C, q), 40.3 (1C, t), 38.2 (1C, t), 36.2 (1C, s), 35.2 (1C, s), 30.2 (2C, q), 29.8 (2C, q), 19.7 (1C, q), 15.8 (1C, q). IR (KBr) 1244, 1271, 1682 cm-1, MS (m/e) 274.2 (M+, 34.9), 259.1 (100.0), 260.2 (21.7), 189.1 (21.5).

reactant | 2-Formyl-1-hydroxy-3,4,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene | 0.0335 mol, 8.7 g | C(=O)C1=C(C=2C(CCC(C2C(=C1C)C)(C)C)(C)C)O | C17H24O2
reactant | potassium hydroxide | 0.047 mol, 3.1 g | [OH-].[K+]
reactant | dimethyl sulfate | 0.05 mol, 6.3 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-formyl-1-methoxy-3,4,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene | 5.8 g | C(=O)C1=C(C=2C(CCC(C2C(=C1C)C)(C)C)(C)C)OC | C18H26O2
